US05294734
10.5 g (31.3 mmol) of benzyl 6-acetoxy-2-formylamino-3-hydroxy-4-methylenehexanoate are dissolved in 100 ml of abs. CH2Cl2. Then 2.91 ml (37.6 mmol) of thionyl bromide are added to this solution at room temperature. After 2 hours, 80 ml of water are added and the mixture is stirred vigorously for 10 minutes. The organic phase is separated and washed once with water, once with a 1N solution of KHCO3 and twice with water. The aqueous phases are extracted twice with CH2Cl2. The combined organic phases are dried over MgSO4, filtered and concentrated by evaporation, giving benzyl 6-acetoxy-4-bromomethyl-2-formylamino-hex-3-enoate as a yellowish-brown oil which is further reacted without purification.

reactant | benzyl 6-acetoxy-2-formylamino-3-hydroxy-4-methylenehexanoate | 31.3 mmol, 10.5 g | C(C)(=O)OCCC(C(C(C(=O)OCC1=CC=CC=C1)NC=O)O)=C | C17H21NO6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | thionyl bromide | 37.6 mmol, 2.91 ml | S(=O)(Br)Br | Br2OS
solvent | water | 80 ml | O | H2O
product | benzyl 6-acetoxy-4-bromomethyl-2-formylamino-hex-3-enoate | C(C)(=O)OCCC(=CC(C(=O)OCC1=CC=CC=C1)NC=O)CBr | C17H20BrNO5
